US05663368
(S)-N-[6-Benzyloxy-2,3-dihydrobenzofuran-3-yl]hydroxyurea
To a 5 L, 3-necked flask equipped with a mechanical stirrer, thermometer and condenser with CaCl2 drying tube was added under a N2 atmosphere (S)-N-[6-benzyloxy-2,3-dihydrobenzofuran-3-yl]hydroxylamine (129.0 g, 0.501 mol) in THF (2.6 L). The resulting mixture was stirred at room temperature for 0.5 h, at which time was added in one portion, trimethylsilylisocyanate (107.2 mL, 86.6 g, 0.752 mol). The mixture was then heated at reflux for 15 min, then was cooled to 5° C. with an ice bath. The precipitate which formed was collected by filtration to afford a white solid. A second crop of peach-colored solid was obtained from concentration of the filtrate. This was taken up in a minimum of DMF, heated and treated with Darco. Filtration and cooling afforded a white solid which was collected, dried and combined with the first crop. The combined solids were dissolved in EtOH (20 vol), heated to reflux, cooled, collected and dried to afford the title compound (105.4 g, 70.2%); m.p. 192.5°-193° C.

reactant | (S)-N-[6-benzyloxy-2,3-dihydrobenzofuran-3-yl]hydroxylamine | 0.501 mol, 129.0 g | C(C1=CC=CC=C1)OC1=CC2=C([C@@H](CO2)NO)C=C1 | C15H15NO3
reactant | trimethylsilylisocyanate | 0.752 mol, 107.2 mL, 86.6 g | C[Si](C)(C)N=C=O | C4H9NOSi
reactant | DMF | CN(C)C=O | C3H7NO
reactant | Darco | C | CH4
solvent | THF | 2.6 L | C1CCOC1 | C4H8O
product | (S)-N-[6-Benzyloxy-2,3-dihydrobenzofuran-3-yl]hydroxyurea | 105.4 g, 70.2% | C(C1=CC=CC=C1)OC1=CC2=C([C@@H](CO2)N(C(=O)N)O)C=C1 | C16H16N2O4
